US06210942B1
cDNA Cloning and Expression of Thuja plicata (+)-Pinoresinol/(+)-Lariciresinol Reductase
Enzyme Assays. Pinoresinol and lariciresinol reductase activities were assayed by monitoring the formation of [3H]lariciresinol and [3H]secoisolariciresinol as set forth in Example 8, with the following modifications. Briefly, each assay for pinoresinol reductase activity consisted of (±)-pinoresinols (5 mM in MeOH, 20 μl) and the enzyme preparation (i.e., total protein extract from E. coli, 210 μl). The enzymatic reaction was initiated by addition of [4R-3H]NADPH (10 mM, 6.79 kBq/mmol in distilled H2O, 20 μl). After 3 hour incubation at 30° C. with shaking, the assay mixture was extracted with EtOAc (500 μl) containing (±)-lariciresinols (20 μg) and (±)-secoisolariciresinols (20 μg) as radiochemical carriers. After centrifugation (13,800×g, 5 min), the EtOAc solubles were removed and the extraction procedure was repeated. For each assay, the EtOAc solubles were combined with an aliquot (100 μl) removed for determination of its radioactivity using liquid scintillation counting. The remainder of the combined EtOAc solubles was evaporated to dryness in vacuo, reconstituted in MeOH/H2O (30:70, 100 μl) and subjected to reversed phase and chiral column HPLC.

reactant | Pinoresinol | COC=1C=C(C=CC1O)[C@@H]2[C@H]3CO[C@H]([C@H]3CO2)C=4C=CC(=C(C4)OC)O | C20H22O6
reactant | lariciresinol | COC=1C=C(C=CC1O)C[C@H]2CO[C@@H]([C@H]2CO)C=3C=CC(=C(C3)OC)O | C20H24O6
solvent | MeOH | CO | CH4O
product | (+)-Pinoresinol (+)-Lariciresinol | COC=1C=C(C=CC1O)[C@H]2[C@@H]3CO[C@H]([C@@H]3CO2)C=4C=CC(=C(C4)OC)O.COC1=C(C=CC(=C1)C[C@H]2CO[C@@H]([C@H]2CO)C3=CC(=C(C=C3)O)OC)O | InChI=1S/C20H22O6.C20H24O6/c1-23-17-7-11(3-5-15(17)21)19-13-9-26-20(14(13)10-25-19)12-4-6-16(22)18(8-12)24-2;1-24-18-8-12(3-5-16(18)22)7-14-11-26-20(15(14)10-21)13-4-6-17(23)19(9-13)25-2/h3-8,13-14,19-22H,9-10H2,1-2H3;3-6,8-9,14-15,20-23H,7,10-11H2,1-2H3/t13-,14-,19+,20+;14-,15-,20+/m10/s1
